US07067517B2
Methyl-phenyl-carbamic acid 4-[(pyridine-3-carbonyl)-amino]-phenyl ester
The title product was prepared from N-(4-Hydroxy-phenyl)-nicotinamide and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (1%, light yellow crystals). HPLC-MS: m/z=348.1 (M+1); Rt: 2.96 min.

reactant | N-(4-Hydroxy-phenyl)-nicotinamide | OC1=CC=C(C=C1)NC(C1=CN=CC=C1)=O | C12H10N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-[(pyridine-3-carbonyl)-amino]-phenyl ester | N1=CC(=CC=C1)C(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H17N3O3
